US07902252B2
3.5. Synthesis of 5-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (22)
The title compound was synthesized from ethyl 5-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.017 g, 0.09 mmol) and lithium hydroxide monohydrate (0.019 g, 0.45 mmol) according to General Procedure 7. The crude was purified by reverse phase HPLC (50-100% MeOH: water, 0.1% formic acid) to give 5-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (22) as a light brown solid (2.1 mg, 14%). Rf (1:1 EtOAc:heptane)=0.12; 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.19 (d, J=6.6, 3H), 2.17-2.20 (m, 1H), 2.26-2.32 (m, 1H), 2.75-2.80 (m, 1H), 2.84-2.90 (m, 2H), 6.56 (s, 1H); LCMS-MS (ESI+) 166.0 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | ethyl 5-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.09 mmol, 0.017 g | CC1CC2=C(NC(=C2)C(=O)OCC)C1 | C11H15NO2
reactant | lithium hydroxide monohydrate | 0.45 mmol, 0.019 g | O.[OH-].[Li+]
product | 5-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 2.1 mg, 14% | CC1CC2=C(NC(=C2)C(=O)O)C1 | C9H11NO2
